US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-3-biphenylyl]methyl}propanediamide
To N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]propanediamide (50 mg, 0.086 mmol) was added 1,1-dimethylethyl hexahydro-1H-1,4-diazepine-1-carboxylate (34.4 mg, 0.172 mmol) followed by NaB(OAc)3H (36.4 mg, 0.172 mmol) and AcOH (4.91 μL, 0.086 mmol) in dimethyl sulfoxide (DMSO) (0.5 mL). The mixture was stirred overnight at room temperature. The reaction was quenched with saturated NaHCO3 and extracted with EtOAc (3×1 mL). Combined organic layers were washed with saturated NaCl, dried (Na2SO4) and concentrated. The crude products were redissolved in MeOH/DMSO (1/1) and purified using a Gilson HPLC (acidic conditions) and solvent evaporated using a GeneVac EZ-2 evaporator. To this material was added TFA (0.198 mL, 2.57 mmol) in dichloromethane (0.2 mL) and the mixture was placed in a Glas-Col evaporator overnight. The resultant residue was then redissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic condition), and the product fractions were combined and the solvent evaporated by GeneVac EZ-2 evaporator. Each compound was redissolved in MeOH/DCM (1/1) and an amine cartridge was used to neutralize the mixture to afford 8.4 mg (14%) of the title compound. LC-MS m/z 667 (M+H)+.

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-3-biphenylyl)methyl]propanediamide | 0.086 mmol, 50 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)C=O)=O)CC | C33H38N6O4
reactant | 1,1-dimethylethyl hexahydro-1H-1,4-diazepine-1-carboxylate | 0.172 mmol, 34.4 mg | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | NaB(OAc)3H | 0.172 mmol, 36.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 0.086 mmol, 4.91 μL | CC(=O)O | C2H4O2
reactant | TFA | 2.57 mmol, 0.198 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(hexahydro-1H-1,4-diazepin-1-ylmethyl)-3-biphenylyl]methyl}propanediamide | 8.4 mg, 14% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCNCCC2)=O)CC | C38H50N8O3
